US07335658B2
Synthesis of 6-[4-(2-AMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
6-[4-(2-Nitrobenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide (100 mg, 0.235 mmol) was hydrogenated with 10 mg 10% Pd/C as catalyst at ambient temperature under 1 atm for 24 hours. The mixture was filtered through a celite cake. The filtrate was concentrated and purified by flash chromatography (ethyl acetate) to give a white solid (83% yield). 1H NMR (500 MHz, CDCl3) δ 8.05, 7.86, 7.19-7.23, 7.10-7.13, 6.99, 4.40, 3.74-3.88, 3.50, 1.65-1.75, 1.52, 0.94. MS (ES+) m/z 397 (M+1).

reactant | 6-[4-(2-Nitrobenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.235 mmol, 100 mg | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C21H26N6O4
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 6-[4-(2-AMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 83% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)N)=O)C | C21H28N6O2
